US04843080
5-Acetyl-6-methyl-3,4-dihydro-2H-pyrane
A mixture of 130.4 g. (1.3 moles) of 2,4-pentanedione, 251.9 g. (1.6 moles) of 1,3-bromochloropropane, 168 g. (1.2 moles) of anhydrous potassium carbonate, 1 g. of anhydrous sodium iodide and 250 ml. of dry acetone is refluxed for 20 hours, under exclusion of humidity, with stirring. After cooling the mixture is filtered, washed with four 150-ml. portions of dry acetone, the combined acetone extract is evaporated, and the residue is subjected to fractionated distillation in vacuum, on a Vigreux column.

reactant | 2,4-pentanedione | 1.3 moles | CC(CC(C)=O)=O | C5H8O2
reactant | potassium carbonate | 1.2 moles | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | [I-].[Na+]
reactant | acetone | CC(=O)C | C3H6O
product | 5-Acetyl-6-methyl-3,4-dihydro-2H-pyrane | C(C)(=O)C=1CCCOC1C | C8H12O2
